US06737425B1
114-8) 4-Cyano-5-methyl-4-(2-cyano-5-thienyl)hexanol
[4-Cyano-5-methyl-4-(2-cyano-5-thienyl)hexyloxy]-t-butyldimethylsilane, 452 mg 1.25 mmol, was dissolved in 10 ml tetrahydrofuran and cooled at 0° C. A solution of 1 M tetrabutylammonium fluoride in tetrahydrofuran 1.38 ml was added dropwise thereto, and then the temperature was raised to room temperature. Aqueous saturated ammonium chloride and brine were added to the reaction mixture which was then extracted with ether. The organic layer was washed with brine, dried over magnesium sulfate anhydride, and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound, 273 mg 1.10 mmol, 87.9%, was obtained as a yellow syrup.

reactant | [4-Cyano-5-methyl-4-(2-cyano-5-thienyl)hexyloxy]-t-butyldimethylsilane | C(#N)C(CCCO[Si](C)(C)C(C)(C)C)(C(C)C)C1=CC=C(S1)C#N | C19H30N2OSSi
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.38 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-5-methyl-4-(2-cyano-5-thienyl)hexanol | C(#N)C(CCCO)(C(C)C)C1=CC=C(S1)C#N | C13H16N2OS
